US05677457
Add LiBr (80 g) to 48% aq HBr (40 mL) and water (40 mL) to make a clear solution. To this solution add (-) eserethole (21.31 g, 86.63 mmol) at room temperature under nitrogen with stirring. Heat (90°-100° C.) the brownish clear solution with an oil bath for 5.5 hours. Cool the dark greenish brown solution to room temperature and pour into ice-water (240 mL). To this solution was add 20% LiOH to pH 9-10. Extract the mixture with ethyl acetate (2×150 mL). Wash the combined ethyl acetate solution with brine, dry over potassium carbonate and filter. Concentrate the filtrate (to 100 mL) to provide a residue which contains eseroline (17.76 g, 95% yield, 98.8% purity). This solution was used immediately in the preparation of the title product.

reactant | LiBr | 80 g | [Li+].[Br-]
reactant | HBr | 40 mL | Br | BrH
reactant | eserethole | 86.63 mmol, 21.31 g | CCOC1=CC2=C(C=C1)N([C@@H]3[C@]2(CCN3C)C)C | C15H22N2O
reactant | LiOH | [Li+].[OH-]
solvent | water | 40 mL | O | H2O
product | eseroline | 17.76 g, 95% yield | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)O)C)C | C13H18N2O
